US04124644
A mixture of 130 grams of n-octanol, 60 grams of granular sodium hydroxide, 4 grams of Aliquat 336® (registered trademark of General Mills Chemicals, Inc.) and 110 grams of chloro acetaldehyde dimethyl acetal are heated to reflux for 4 hours. The reaction mass is cooled and 200 ml of water are added thereto with vigorous stirring. After all solids are dissolved, the aqueous phase is distilled to yield 87 grams of n-octanol (boiling point 60° C. at 1.4 mm Hg pressure) and 77 grams of n-octyl oxyacetaldehyde (boiling point 90° C. at 1.8 mm Hg). The conversion based on chloroacetaldehyde dimethyl acetal is 40% and the yield based on n-octanol is 83%.

reactant | n-octanol | 130 grams | C(CCCCCCC)O | C8H18O
reactant | sodium hydroxide | 60 grams | [OH-].[Na+]
reactant | chloro acetaldehyde dimethyl acetal | 110 grams | COC(CCl)OC | C4H9ClO2
catalyst | Aliquat 336 | 4 grams | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | 200 ml | O | H2O
product | n-octyl oxyacetaldehyde | 77 grams | C(CCCCCCC)OCC=O | C10H20O2
